US07432279B2
4-[(3-chloro-4-fluorophenyl)amino]-6-{[3-(dimethylamino)propyl]amino}-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile was reacted with N1,N1-dimethylpropane-1,3-diamine. The crude product was purified by flash column chromatography (15% methanol in methylene chloride) to give a yellow solid (0.040 g, 44%). 1H NMR (400 MHz, chloroform-D) δ ppm 1.8 (m, 2 H) 2.3 (s, 6 H) 2.4 (t, J=6.4 Hz, 2 H) 3.2 (t, J=6.6 Hz, 2 H) 3.5 (s, 1 H) 6.3 (s, 1 H) 7.1 (m, 2 H) 7.2 (t, J=8.6 Hz, 1 H) 7.3 (dd, J=6.3, 2.8 Hz, 1 H) 8.4 (s, 1 H) 9.0 (s, 1 H).

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | N1,N1-dimethylpropane-1,3-diamine | CN(CCCN)C | C5H14N2
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-{[3-(dimethylamino)propyl]amino}-1,7-naphthyridine-3-carbonitrile | 0.040 g, 44% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)NCCCN(C)C)C#N | C20H20ClFN6
